US04440779
To a solution of 1-(3-methylphenoxyacetyl)-2-(N-ethoxycarbonylmethyl-methylamino)-3-t-butoxy-1-propene (40 g, 0.1 mol) in absolute ethanol (250 ml) is added sodium ethoxide (1.0 g, 0.015 mol) under N2. The reaction is stirred at room temperature and monitored by TLC until all starting material has disappeared. Then acetic acid (0.9 g, 0.015 mole) is added and the mixture taken to dryness in vacuo. The residue is dissolved in ethyl acetate (200 ml) and washed with water (100 ml), then saturated brine (100 ml) and dried over anhydrous sodium sulfate. The solvent is removed and the crude product is purified by preparative HPLC to afford pure ethyl 1-methyl-2-(t-butoxymethyl)-4-(3-methylphenoxymethyl)pyrrole-5-carboxylate

reactant | 1-(3-methylphenoxyacetyl)-2-(N-ethoxycarbonylmethyl-methylamino)-3-t-butoxy-1-propene | 0.1 mol, 40 g | CC=1C=C(OCC(=O)C=C(COC(C)(C)C)N(CC(=O)OCC)C)C=CC1 | C21H31NO5
reactant | sodium ethoxide | 0.015 mol, 1.0 g | [O-]CC.[Na+]
reactant | acetic acid | 0.015 mole, 0.9 g | C(C)(=O)O | C2H4O2
solvent | ethanol | 250 ml | C(C)O | C2H6O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 1-methyl-2-(t-butoxymethyl)-4-(3-methylphenoxymethyl)pyrrole-5-carboxylate | CN1C(=CC(=C1C(=O)OCC)COC1=CC(=CC=C1)C)COC(C)(C)C | C21H29NO4
